US08138197B2
Methyl 4-[1-(ethoxy)ethenyl]-3,5-dimethoxybenzoate
Methyl 3,5-dimethoxy-4-bromobenzoate (500 mg) was dissolved in toluene in a nitrogen atmosphere, and 1-ethoxyvinyltributyltin (742 μL) and tetrakis(triphenylphosphine)palladium (211 mg) were added to it, and stirred overnight at 110° C. The reaction liquid was cooled to room temperature, then aqueous potassium fluoride solution was added to it, and stirred at room temperature. The reaction liquid was filtered through Celite, the Celite was washed with ethyl acetate, and the filtrate was washed with saturated saline water. The organic layer was dried with sodium sulfate, the sodium sulfate was removed through filtration, the filtrate was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (hexane/ethyl acetate=100/0 to 85/15) to obtain the title compound.

reactant | Methyl 3,5-dimethoxy-4-bromobenzoate | 500 mg | COC=1C=C(C(=O)OC)C=C(C1Br)OC | C10H11BrO4
reactant | potassium fluoride | [F-].[K+]
reactant | 1-ethoxyvinyltributyltin | 742 μL | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 211 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-[1-(ethoxy)ethenyl]-3,5-dimethoxybenzoate | C(C)OC(=C)C1=C(C=C(C(=O)OC)C=C1OC)OC | C14H18O5
